data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,7456,"BrC[CH:1]=[CH2:2].[H:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,7132,"CCC(=O)[Cl:1].[Cl][Al:2]([Cl])[Cl]|(1, 2)"
train,pmechdb_split_0,0,3404,"CC1(C)CC2=C(C=NN2C2=CC=C(F)C=C2)C2([O-:1])[NH2+]C3=C(C=C(C(=O)C4=CC=CC=C4)C=C3)N=C12.CCO.NC1=C([NH2+:2][H:3])C=C(C(=O)C2=CC=CC=C2)C=C1.O.[Cl-]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,1090,"CC(C)[C:1]1([H:2])C=CC=C[CH+:3]1.O=P(O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,1724,"CO.COC1=C(O)C2=C(C=C1)CC1C3C[CH+:1][C:2](O)=[CH:3]C23CCN1CCC1=CC=CC=C1.CS(=O)(=O)O.CS(=O)(=O)[O-]|((3, 2), 1)"
train,pmechdb_split_0,0,914,"CO[C+:1]1C2=CC=CC=C2[C:2]([N+](=O)[O-])([H:3])[CH:4]=[CH:5]1.O=S(=O)(O)[O-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,44,"C=CCC(O)CC1CC(O[Si](C)(C)C(C)(C)C)CC(CC2=C(C(=O)OC(NC3CCCCC3)=[N:1]C3CCCCC3)C(OC)=CC=C2)O1.CN(C)C1=CC=[N+:2]([H:3])C=C1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6860,"CC1=CC=C[CH+][C]1(S(=O)(=O)C1=CC=CC=C1)[Sn:1]([CH3])([CH3])[CH3].[Cl-:2]|(2, 1)"
train,pmechdb_split_0,0,8845,"CC(=O)O.CC(=O)[O-:1].CCN1C(CO)CC2(C34CC([CH:2]([H:3])[O:4][I+:5]5(OC(C)=O)OC(=O)C6=C5C=CC=C6)N(CC)C3NC3=CC=CC=C34)C3=CC=CC=C3NC12|(1, 3);((3, 2), 4);((4, 5), 5)"
train,pmechdb_split_0,0,6805,"C1CCOC1.COC(=O)C1(C)CCCC2(C)C1CCCC2(OCCO)[OH+:1][H:2].[Cl-].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,5630,"C[OH:1].F[B:2](F)F|(1, 2)"
train,pmechdb_split_0,0,5157,"CC[NH+](CC)CC.COC(=O)C1=CN(C)C2=C(C1=O)[C:1](N1CCCC1)([Cl:2])[CH:3]=[C:4]([O-:5])N2C|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,2719,"CCOC(=O)C1(C(=O)OCC)C(C)CCC(C#N)([C:1](OCC)([NH3+:2])[OH:3])C1CC(C)=O.O.[Cl-]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,8192,"CCC(C)[OH:1].Cl[P:2](Cl)(Cl)=[O:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,470,"BrCC=[O+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3212,"CC1=CC=C(S(=O)(=O)[O-])C=C1.CCOC(=O)C[C:1](CC(=O)OCC)=[O+:2]CC[OH:3].CCOCC.O.OCCO.O[B-](F)(F)F|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,2776,"CC1=C[C:1]([C:2](C)([CH:3](C2=CC=C(CC(C)C)C=C2)[OH2+:4])[OH:5])=CC=C1.O=S(=O)([O-])C1=CC=C(C(F)(F)F)C=C1|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,10114,"C[CH+:1][O:2][Sn-]([Cl])([Cl])([Cl])[Cl]|(2, 1)"
train,pmechdb_split_0,0,1343,"C[Si](C)(C)C[CH2:1][O:2][CH:3]=[O+:4][Si](C)(C)C|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8051,"C1CC[C:1]2=[NH+:2]CCCC2C1.[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1107,"CC12CCCC([BH2:1])C1CCCC2OS(C)(=O)=O.[Na][OH:2]|(2, 1)"
train,pmechdb_split_0,0,10000,"CC=C[C:1]1([H:2])CCCC(C)[CH:3]1[N+:4](C)(C)C.[OH-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,2288,"CO[C:1]1=[C:2](Br)[CH:3]=[CH:4]C=C1.C[C+:5]=O|((1, 2), 3);((3, 4), 5)"
train,pmechdb_split_0,0,8438,"CC1=CC(C(C)(C)C)=[NH+]C(C(C)(C)C)=C1.COC(=O)C1C2=C(CCN3CCC1[C:1](=[S+:2]C)C3=O)C1=C(C=CC=C1)N2C(=O)OC.O=C(C(F)(F)F)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9571,"C[C:1](C)([C:2]1=CC=CC=C1)[O:3][OH2+:4].O=S(=O)([O-])O|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8410,"C=CCN1CCC23C4=C5C=CC(OC)=C4[O+:1]([H:2])C2C(O)=CCC3C1C5.C=CC[N:3]1CCC23CC(=O)C(OC)CC2C1CC1=C3C(O)=C(OC)C=C1.CO.CS(=O)(=O)[O-]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,6682,"CC(C(=O)[O-:1])C(O)C1=CC=CC=C1.O=[S+]([O-])([O-])[O:2][H:3].[Na+]|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,6991,"C[C+:1](C)Br.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,5673,"CC(=O)[O-].CC(C)N(CC1=CC=CC=C1)C(=O)C1[C:1](C)([OH2+:2])[C:3]2=[C:4](CC34CCN(C)C(CC5=CC=CC=C53)C4(O)C2)[NH:5]1.O|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,7269,"C=C1C[C+](C(C)(C)C)CCC[C:1](=[O+:2][B-](Cl)(Cl)Cl)[CH-:3]1|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6760,"CC#N.CC(C)(C)[O:1]N=O.F[B:2](F)F.NC1=C(C#CC2=CC=CC=C2)C=CC=C1|(1, 2)"
train,pmechdb_split_0,0,10207,"CO[PH+:1](I)I.C[OH:2]|(2, 1)"
train,pmechdb_split_0,0,4712,"CO[C:1](OCC[O-:2])=[O:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,1773,"Br[B:1](Br)Br.C[O:2]C1=C2OC3C(=O)CCC4(O)C5CC(=C2C34CCN5CC2=CC=CC=C2)C=C1|(2, 1)"
train,pmechdb_split_0,0,5165,"C1=CC=C(C2CC(C3=CC=CC=C3)[C:1](C3=CC=CC=C3)=[CH:2]2)C=C1.[H:3][Br:4]|((1, 2), 3);((3, 4), 4)"
train,pmechdb_split_0,0,6565,"CC(C)[C:1]1=[CH:2][CH:3]=[CH:4]C=C1.O=[S+:5](=O)O|((1, 2), 3);((3, 4), 5)"
train,pmechdb_split_0,0,4886,"CCNC[CH:1]=[C:2]=[NH:3].O=S(=O)(O)[O:4][H:5]|(3, 2);((2, 1), 5);((5, 4), 4)"
train,pmechdb_split_0,0,7912,"CC(=O)[O-:1].CC1(C)C2=C(C=C(Br)C(N3CC[N+:2](C4(O)COC4)([H:3])CC3)=C2)C(=O)C2=C1NC1=CC=CC=C12.CO.[BH3-]C#N|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,2155,"Br[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1.O=C1CCC(=O)[N-:1]1.O=CC1=CC=C(C[O:2][H:3])O1|(1, 3);((3, 2), 2)"
train,pmechdb_split_0,0,4176,"C1C[S:1][CH:2]([OH2+:3])S1|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,10146,"CO[Si-:1](C)(C)(C)[O+:2](C)C|((1, 2), 2)"
train,pmechdb_split_0,0,8139,"C[C:1]1=[CH:2]C2=C(C=CC=C2)C=C1.C[CH+:3]C|((1, 2), 3)"
train,pmechdb_split_0,0,1650,"C=CCC(C1(C)C2=C(OC1C)C(Br)=CC=C2O[Si](C(C)C)(C(C)C)C(C)C)[O:1][Ti]([Cl])([Cl])[Cl].C[Si](C)(C)Cl.[H:2][OH:3]|(1, 2);((2, 3), 3)"
